US08258306B2
To methyl 2-((R)-2-methyl-4-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazin-1-yl)acetate (420 mg, 1.327 mμmol) in 14 mL of MeOH/THF/H2O (3:3:1) was added lithium hydroxide monohydrate (195 mg, 4.645 mmol). After stirring at rt for 3 h when HPLC-MS showed complete conversion, the solvent was evaporated to dryness under high vacuum. The residue was redissolved in water and the solution was adjusted to PH=4 with 2 N HCl, extracted with DCM, dried over Na2SO4, filtered and evaporated to dryness. Column chromatography (SiO2, DCM to DCM/MeOH=100:10 to 100:20 to 100:30) gave 2-((R)-2-methyl-4-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazin-1-yl)acetic acid (360 mg, 89.7% yield) as a white solid. MS (ESI, pos. ion) m/z: 303.2 (M+1).

reactant | methyl 2-((R)-2-methyl-4-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazin-1-yl)acetate | 420 mg | C[C@H]1N(CCN(C1)C1CCCCC2=C1C=CC=C2)CC(=O)OC | C19H28N2O2
reactant | lithium hydroxide monohydrate | 4.645 mmol, 195 mg | O.[OH-].[Li+]
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | MeOH THF H2O | 14 mL | CO.C1CCOC1.O
product | 2-((R)-2-methyl-4-(6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-yl)piperazin-1-yl)acetic acid | 360 mg, 89.7% yield | C[C@H]1N(CCN(C1)C1CCCCC2=C1C=CC=C2)CC(=O)O | C18H26N2O2
